US07253165B2
Synthesis of (R)-2-{4-[2-hydroxy-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propyl]-piperazin-1-yl}-benzonitrile (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine in dimethylformamide and ethanol and 1-(2-cyanophenyl)piperazine in ethanol essentially as described above in Example 102. Purity by LC/MS=100%, [M+H]+=456.

reactant | (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine | O1[C@H](C1)COC=1C=C(C=CC1)C1=NOC2=NC=CC=C21 | C15H12N2O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | 1-(2-cyanophenyl)piperazine | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
product | (R)-2-{4-[2-hydroxy-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propyl]-piperazin-1-yl}-benzonitrile | O[C@H](CN1CCN(CC1)C1=C(C#N)C=CC=C1)COC1=CC(=CC=C1)C1=NOC2=NC=CC=C21 | C26H25N5O3
